US09278950B2
Step 6. 3-Amino-N-{4-[(3S,5R)-3-amino-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}-7-morpholin-4-ylquinoline-2-carboxamide
A mixture of benzyl {2-[({4-[(3S,5R)-3-amino-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-morpholin-4-ylquinolin-3-yl}carbamate (0.005 g, 0.008 mmol) in 2 mL of 4 M HBr in AcOH was stirred at room temperature for 2 h. The solution was then concentrated under reduced pressure and the residue was treated with 4.5 mL of MeOH and 0.5 mL of NH4OH solution. The resulting mixture was filtered and the filtrate was purified by preparative HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 30 mL/min.) to afford the title compound. LCMS calc. for C25H29F3N7O2 [M+H]+: m/z=516.2. found: 516.3.

reactant | benzyl {2-[({4-[(3S,5R)-3-amino-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-morpholin-4-ylquinolin-3-yl}carbamate | 0.008 mmol, 0.005 g | N[C@@H]1CN(C[C@@H](C1)C(F)(F)F)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1CCOCC1 | C33H34F3N7O4
solvent | HBr | 4 M, 2 mL | Br | BrH
solvent | AcOH | CC(=O)O | C2H4O2
product | 3-Amino-N-{4-[(3S,5R)-3-amino-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}-7-morpholin-4-ylquinoline-2-carboxamide | NC=1C(=NC2=CC(=CC=C2C1)N1CCOCC1)C(=O)NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C(F)(F)F)N | C25H28F3N7O2
